US08084448B2
D. (S)-2-Acetylamino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic Acid Tert-butyl Ester
To a Solution of (S)-2-Amino-3-{3-Benzyloxy-4-[1,1,4-Trioxo-5-(2-Trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid tert-butyl ester (150 mg, 0.27 mmol) and triethylamine (0.57 mL, 0.41 mmol) in methylene chloride (10 mL) at 0° C. is added acetyl chloride (0.21 mL, 0.3 mmol) dropwise then the mixture is stirred at RT for 2 h. Water and 1N HCl is added until pH 4 and the mixture is extracted with methylene chloride. The organic phase is washed with brine and dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound as an oil.

reactant | (S)-2-Amino-3-{3-Benzyloxy-4-[1,1,4-Trioxo-5-(2-Trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid tert-butyl ester | 0.27 mmol, 150 mg | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)N)=O | C27H39N3O6SSi
reactant | triethylamine | 0.41 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.3 mmol, 0.21 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (S)-2-Acetylamino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic Acid Tert-butyl Ester | C(C)(C)(C)OC([C@H](CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)NC(C)=O)=O | C29H41N3O7SSi
